US03962224
A solution of dibutyl aminomethylphosphonate hydrochloride (88.4 g) in water (400 ml) is treated with dipotassium hydrogen phosphate (183.0 g) and water (800 ml). The mixture is stirred until clear, then extracted with four portions of methylene chloride. The combined extracts are dried over magnesium sulfate, filtered, and evaporated under reduced pessure to leave dibutyl aminomethylphosphonate.

reactant | dibutyl aminomethylphosphonate hydrochloride | 88.4 g | Cl.NCP(OCCCC)(OCCCC)=O
reactant | dipotassium hydrogen phosphate | 183.0 g | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | water | 400 ml | O | H2O
solvent | water | 800 ml | O | H2O
product | dibutyl aminomethylphosphonate | NCP(OCCCC)(OCCCC)=O | C9H22NO3P
